US05250528
To a solution of 1-nitroso-4-(2-thenoyl)piperazine (1.78 g) in a mixture of acetic acid (8 ml) and water (8 ml) was added Zn powder (1.55 g) in several portions at 6°-15° C. The suspension was stirred for 1.5 hours below 10° C. To the mixture was added acetic acid (4 ml) and Zn powder (780 mg) at 8°-12° C. The mixture was stirred for 2 hours at ambient temperature. To the suspension was added 17% aqueous sodium hydroxide solution (70 ml). The insoluble materials were filtered off. The aqueous layer was extracted with dichloromethane. The combined organic layers were dried and concentrated in vacuo. The residue was purified by column chromatography on silica gel (elution by 5% methanol in dichloromethane) to yield 1-amino-4-(2-thenoyl)piperazine (1.17 g) as a pale yellow syrup.

reactant | 1-nitroso-4-(2-thenoyl)piperazine | 1.78 g | N(=O)N1CCN(CC1)C(C1=CC=CS1)=O | C9H11N3O2S
reactant | sodium hydroxide | 70 ml | [OH-].[Na+]
solvent | acetic acid | 8 ml | C(C)(=O)O | C2H4O2
solvent | water | 8 ml | O | H2O
catalyst | Zn | 1.55 g | [Zn] | Zn
catalyst | Zn | 780 mg | [Zn] | Zn
solvent | acetic acid | 4 ml | C(C)(=O)O | C2H4O2
product | 1-amino-4-(2-thenoyl)piperazine | 1.17 g | NN1CCN(CC1)C(C1=CC=CS1)=O | C9H13N3OS
